US07507739B2
To the above 7-cycloheptyl-6-(2,6-difluoro-4-{3-[(4-methoxybenzyl)oxy]propoxy}phenyl)[1,2,4]triazolo[1,5-a]pyrimidin-5-ol (820 mg) is added 5 mL of phosphorous oxychloride and 2 mL of N,N-diethylaniline, and the mixture is heated at reflux for 1 h. The excess phosphorous oxychloride is removed in vaccuo, and the resulting residue is partitioned between methylene chloride and 1 N hydrochloric acid. The organic layer is washed with saturated sodium chloride, dried over magnesium sulfate, and concentrated to a residue. The residue is chromatographed over silica gel, eluting with a gradient of hexanes to 20% ethyl acetate in hexanes. Concentration provides 5-chloro-7-cycloheptyl-6-(2,6-difluoro-4-{3-[(4-methoxybenzyl)oxy]propoxy}phenyl)[1,2,4]triazolo[1,5-a]pyrimidine as a yellow oil (180 mg). MS: m/z 557.2 (M+H).

reactant | 7-cycloheptyl-6-(2,6-difluoro-4-{3-[(4-methoxybenzyl)oxy]propoxy}phenyl)[1,2,4]triazolo[1,5-a]pyrimidin-5-ol | 820 mg | C1(CCCCCC1)C1=C(C(=NC=2N1N=CN2)O)C2=C(C=C(C=C2F)OCCCOCC2=CC=C(C=C2)OC)F | C29H32F2N4O4
reactant | phosphorous oxychloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-diethylaniline | 2 mL | C(C)N(C1=CC=CC=C1)CC | C10H15N
product | 5-chloro-7-cycloheptyl-6-(2,6-difluoro-4-{3-[(4-methoxybenzyl)oxy]propoxy}phenyl)[1,2,4]triazolo[1,5-a]pyrimidine | 180 mg | ClC1=NC=2N(C(=C1C1=C(C=C(C=C1F)OCCCOCC1=CC=C(C=C1)OC)F)C1CCCCCC1)N=CN2 | C29H31ClF2N4O3
